US09024027B2
Step 1. Preparation of (2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetyl chloride (262)
To a solution of 2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetic acid (150 mg, 0.684 mmol) in CHCl3 (3 ml), (dichloromethoxy)ethane (1 ml, 0.684 mmol) was added, and the mixture refluxed for 3 hours. The solvent was evaporated under reduced pressure, the crude taken up with CHCl3, and the solvent evaporated again to give the title compound (163 mg, quantitative yield).

reactant | 2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetic acid | 0.684 mmol, 150 mg | O=C1N(C(CC2=CC=CC=C12)=O)CC(=O)O | C11H9NO4
reactant | (dichloromethoxy)ethane | 0.684 mmol, 1 ml | ClC(OCC)Cl | C3H6Cl2O
solvent | CHCl3 | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetyl chloride | 163 mg, quantitative yield | O=C1N(C(CC2=CC=CC=C12)=O)CC(=O)Cl | C11H8ClNO3
